US04496572
A mixture of 5-bromo-3-methylbenzofuran-2-yl pyrid-3-yl ketone free base (2.67 g) and hydrazine hydrate (1.80 g) in ethylene glycol (30 ml) was heated at 120° C. for 2.5 hours. The mixture was cooled, potassium hydroxide (1.80 g) was added and the temperature was raised to 120° again and maintained at this temperature for 1 hour. Dilution with water and ether extraction gave an oil which was chromatographed on silica gel. Elution with chloroform gave a solid which was crystallised from petrol (b.p. 80°-100°) to give 5-bromo-3-methyl-2-(3-pyridylmethyl)benzofuran (2.00 g), m.p. 57°-58°.

reactant | 5-bromo-3-methylbenzofuran-2-yl pyrid-3-yl ketone | 2.67 g | N1=CC(=CC=C1)C(=O)C=1OC2=C(C1C)C=C(C=C2)Br | C15H10BrNO2
reactant | hydrazine hydrate | 1.80 g | O.NN
reactant | potassium hydroxide | 1.80 g | [OH-].[K+]
solvent | ethylene glycol | 30 ml | C(CO)O | C2H6O2
product | 5-bromo-3-methyl-2-(3-pyridylmethyl)benzofuran | 2.00 g | BrC=1C=CC2=C(C(=C(O2)CC=2C=NC=CC2)C)C1 | C15H12BrNO
